US07655680B2
Sodium hydride (0.26 g, 6.0 mmol) was added under ice cooling to a solution (10 ml) of ethyl benzoylacetate (1.0 ml, 5.77 mmol) in DMF, followed by stirring for 30 minutes, and then 2,3-dibromopropene (0.63 ml, 5.77 mmol) was added. The resulting mixture was stirred at room temperature for 1.5 hours, water was added to the reaction mixture, and extraction with ethyl acetate was performed three times. The organic layer was dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=4/1). The solvent was distilled off under reduced pressure, to thereby obtain 1.55 g (yield: 86%) of ethyl 2-benzoyl-4-bromo-4-pentenoate as a colorless oil.

reactant | Sodium hydride | 6.0 mmol, 0.26 g | [H-].[Na+]
reactant | ethyl benzoylacetate | 5.77 mmol, 10 ml | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | 2,3-dibromopropene | 5.77 mmol, 0.63 ml | BrC(=C)CBr | C3H4Br2
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-benzoyl-4-bromo-4-pentenoate | 1.55 g, yield: 86% | C(C1=CC=CC=C1)(=O)C(C(=O)OCC)CC(=C)Br | C14H15BrO3
